US04474809
4'-(Phenethyloxy)acetophenone
A stirred mixture of 18.5 g. of phenethylbromide, 20.4 g. of p-hydroxyacetophenone, 17.3 g. of anhydrous potassium carbonate and 150 ml. of acetone was refluxed under argon for 22 hours. The reaction was then cooled and partitioned between ether and water. The ether layer was washed with water and then extracted with two 100 ml. portions of cold 1N sodium hydroxide. These extracts were combined, washed with water and brine, dried and evaporated to an oil. The oil was purified by chromatography, giving the desired intermediate as a light yellow oil.

reactant | phenethylbromide | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | p-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4'-(Phenethyloxy)acetophenone | C(CC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C16H16O2
